US07351726B2
Step 6: Synthesis of Z-3-(3-Benzyl-2-ethyl-benzofuran-6-yl)-pent-2-en-1-ol:
Z-3-(3-Benzyl-2-ethyl-benzofuran-6-yl)-pent-2-enoic acid methyl ester (6.0 g; 0.0173 mol) was dissolved in ether (200 mL) and the mixture was cooled to −45 to −50° C. Diisobutyl-aluminum hydride (100 mL of 1M solution in THF; 0.1 mol) was added dropwise. The mixture was stirred at −45 to −50° C. for 1 hour then at room temperature for 18 hours. The mixture was poured over a mixture of ice/2N HCl solution and extracted with ethyl acetate and ether, washed with 2N HCl and water, dried over anhydrous magnesium sulfate and solvent evaporated. The residue was purified by flash chromatography on silica gel using 4% ethyl acetate in Hexane as an eluent. The title compound was obtained (4.7 g) as an oil. 1HNMR (400 MHz, DMSO-d6): δ 0.88 (t, 2H, J=7.25 Hz), 1.22 (t, 3H, J=7.47 Hz), 2.37 (q, 2H, J=7.47 Hz), 2.84 (q, 3H, J=7.47 Hz), 3.81 (d, 2H, J=6.59 Hz), 3.96 (s, 2H), 4.5 (brs, 1H), 5.56 (t, 1H, J=6.59 Hz), 6.93 (dd, 1H, J=7.9, 1.32 Hz), 7.18-7.2 (m, 1H), 7.22-7.26 (m, 5H), 7.31 (d, 1H, J=7.9 Hz).

reactant | Z-3-(3-Benzyl-2-ethyl-benzofuran-6-yl)-pent-2-enoic acid methyl ester | 0.0173 mol, 6.0 g | COC(\C=C(\CC)/C1=CC2=C(C(=C(O2)CC)CC2=CC=CC=C2)C=C1)=O | C23H24O3
reactant | Diisobutyl-aluminum hydride | 0.1 mol, 1M, 100 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | ether | 200 mL | CCOCC | C4H10O
product | Z-3-(3-Benzyl-2-ethyl-benzofuran-6-yl)-pent-2-en-1-ol | C(C1=CC=CC=C1)C1=C(OC2=C1C=CC(=C2)\C(=C/CO)\CC)CC | C22H24O2
